data/oMe_Silver.jsonl
{"reaction_id": "NR-236_1-c1ccc(cc1)c2ccccc2_2-c1occc1","level": "medium","name": "Sommelet Reaction","reactants_smiles": ["c1ccc(cc1)c2ccccc2C(c1occc1)Br","C1N2CN3CN1CN(C2)C3"],"products_smiles": ["c1ccc(cc1)c2ccccc2C(c1occc1)=O"],"conditions": "H2O","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C1N2CN3CN1C[N+](C(c1ccc(cc1)c2ccccc2)(c1occc1))(C2)C3","step_weight": 0,"rationale": "The benzylic carbon is highly electrophilic due to resonance stabilization of the developing cation, and bromide is a good leaving group, enabling nucleophilic substitution by hexamine to form a stable quaternary ammonium salt."},{"step": 2,"type": "pericyclic","subtype": "sigmatropic_rearrangement","intermediate_smiles": "C1N2[CH2]N(C[N+]1=[CH2])CN(C2)C(c1ccc(cc1)c2ccccc2)(c1occc1)","step_weight": 0,"rationale": "The quaternary ammonium salt undergoes [2,3]-sigmatropic rearrangement driven by relief of ring strain and formation of a conjugated iminium system, which is stabilized by adjacent aromatic or electron-donating effects."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[CH2]1N2CN(C[N]1C)C[N+](C2)=C(c1ccc(cc1)c2ccccc2)(c1occc1)","step_weight": 0,"rationale": "Water, abundant under the reaction conditions, attacks the electrophilic iminium carbon due to its strong partial positive charge, forming a carbinolamine intermediate stabilized by adjacent nitrogen."},{"step": 4,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "c1ccc(cc1)c2ccccc2C(c1occc1)=O","step_weight": 0,"rationale": "The carbinolamine eliminates the amine, favored by the stability of the departing amine and the formation of a strong C=O bond in the aldehyde product."}],"description": "Hexamine attacks the benzylic bromide to form a stable quaternary ammonium salt, which rearranges via a [2,3]-sigmatropic shift to an iminium ion. Hydrolysis under aqueous conditions converts the iminium to a carbinolamine, which eliminates amine to yield the aldehyde."}
{"reaction_id": "NR-306_1-C(c2ccc(F)cc2)(c3ccc(F)cc3)","level": "medium","name": "Thorpe-Ziegler Reaction","reactants_smiles": ["N#C[CH2]C(c2ccc(F)cc2)(c3ccc(F)cc3)[CH2]C#N","[O-]C(C)(C)C"],"products_smiles": ["N#CC1=C(N)CC(c2ccc(F)cc2)(c3ccc(F)cc3)C1"],"conditions": "tert-butoxide base","mechanism_step_nums": 5,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "N#C[C-][CH2]C(c2ccc(F)cc2)(c3ccc(F)cc3)[CH2]C#N","step_weight": 0,"rationale": "tert-Butoxide deprotonates the methylene flanked by nitriles due to the strong acidity from electron-withdrawing cyano groups, stabilizing the resulting carbanion via resonance."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "N#CC1C(=[N-])CC(c2ccc(F)cc2)(c3ccc(F)cc3)C1","step_weight": 0,"rationale": "The resonance-stabilized carbanion attacks the electrophilic carbon of the second nitrile intramolecularly, favored by proximity and relief of ring strain in forming a five-membered ring."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "N#CC1C(=N)CC(c2ccc(F)cc2)(c3ccc(F)cc3)C1","step_weight": 0,"rationale": "Protonation of the imide anion occurs to neutralize charge, driven by the basicity of the anion and availability of proton donors in the medium."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "N#CC1=C([NH-])CC(c2ccc(F)cc2)(c3ccc(F)cc3)C1","step_weight": 0,"rationale": "Deprotonation at the adjacent nitrogen generates an anionic intermediate, facilitated by the electron-withdrawing cyano group and conjugation with the C=N bond."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "N#CC1=C(N)CC(c2ccc(F)cc2)(c3ccc(F)cc3)C1","step_weight": 0,"rationale": "Final protonation of the nitrogen anion yields the neutral amine, thermodynamically favored under the reaction conditions."}],"description": "Under strong basic conditions, tert-butoxide deprotonates a methylene between two nitriles, generating a stabilized carbanion. This nucleophile undergoes intramolecular attack on the other nitrile, forming a cyclic imine anion. Sequential proton transfers yield the neutral aminopyridine derivative."}
